US06344179B1
(E)-1-Fluoro-4-tosyloxy-2-butene:
To a solution of (E)-1,4-ditosyloxy-2-butene (256 mg, 0.64 mmol) in 10 mL of THF was added Bu4NF (0.7 mL, 1M in THF, 0.7 mmol). The mixture was heated to reflux for 30 min. Evaporation and purification of the residue by flash column chromatography with hexane:ether/2:1 afforded the product as a colorless oil (60 mg, 38%). 1 H NMR (CDCl3, 300 MHz) δ 7.80 (d, J=8.4 Hz, 2H), 7.36 (d, J=8.4 Hz, 2H), 5.99-5.75 (m, 2H, 4.84 (ddd, JFCH=46.5 Hz, J=4.8, 1.2 Hz, 2H), 4.59-4.56 (m, 2H), 2.46 (s, 3H).

reactant | (E)-1,4-ditosyloxy-2-butene | 0.64 mmol, 256 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OC\C=C\COS(=O)(=O)C1=CC=C(C)C=C1 | C18H20O6S2
reactant | Bu4NF | 0.7 mmol, 1M, 0.7 mL | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-1-Fluoro-4-tosyloxy-2-butene | 60 mg, 38% | FC\C=C\COS(=O)(=O)C1=CC=C(C)C=C1 | C11H13FO3S
